US05650542
It is known to convert chloronitrobenzenes containing activated chlorine atoms to the corresponding aryl methyl sulphides in alcoholic solution or suspension, in the presence of sodium hydroxide solution or potassium carbonate, by the introduction of methanethiol (Houben-Weyl, vol. E 11 (1985), p. 175). The yields achieved by this method, however, are only 52-78% of theory. The reaction of 2,3-dichloro-nitrobenzene with benzylmercaptan in the presence of a base gave 2-chloro-6-nitrophenyl benzyl sulphide in only 56% yield (Bull. 1951, 621-626).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanethiol | CS | CH4S
reactant | 2,3-dichloro-nitrobenzene | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | benzylmercaptan | C(C1=CC=CC=C1)S | C7H8S
product | 2-chloro-6-nitrophenyl benzyl sulphide | 56% yield | C(C1=CC=CC=C1)SC1=C(C=CC=C1[N+](=O)[O-])Cl | C13H10ClNO2S
